data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_195312_1,[C@@:1](/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[O:9][H:13])[O:8][H:12])([C:6]([C:3]([H:18])([H:19])[H:20])=[O:10])([O:7][H:11])[H:14]>>[C:1](=[C:4](\[C@@:5]([C:2]([H:15])([H:16])[H:17])([C:6]([C:3]([H:18])([H:19])[H:20])=[O:10])[O:9][H:13])[O:8][H:12])(\[O:7][H:11])[H:14],51.63132750005019
MR_89830_2,[C:1]([n:3]1[c:4]([N:6]([H:9])[H:10])[c:5]([C:2]([H:14])([H:15])[H:16])[n:8][n:7]1)([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](/[C:5]1([C:2]([H:14])([H:15])[H:16])[N:7][N:8]1)[N:6]([H:9])[H:10])([H:11])([H:12])[H:13],24.429829999992737
MR_27655_1,[C:1]([C:2]([H:10])([H:11])[H:12])(/[C:3](=[N:5]/[H:8])[H:9])([O:4][H:6])[H:7]>>[C:1]([C:2]([H:10])([H:11])[H:12])(/[C:3](=[N:5]\[H:8])[H:7])([O:4][H:6])[H:9],71.38188999999691
MR_102929_0,[C:1]([N:3](/[C:4]([N:5]([H:8])[H:9])=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:10])[H:7])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](\[N:5]([H:8])[H:9])[C:6]([C:2]([H:14])([H:15])[H:16])([H:7])[H:10])([H:11])([H:12])[H:13],51.73925750002738
MR_649412_1,[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([N:4]=[O:5])([H:6])[H:7]>>[C:1](=[C:2]([C:3]([N:4]=[O:5])([H:9])[H:10])[H:8])([H:6])[H:7],27.284327500008843
MR_143709_0,[C:1]([C:3]([H:12])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])([C:5]([H:14])([H:19])[H:20])[C:6]([C:2]([O:7][H:9])([H:10])[H:11])=[O:8]>>[C:1]([C:3]([H:12])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])([C:5]([H:14])([H:19])[H:20])[C:6]([C:2](=[O:7])[H:10])([O:8][H:9])[H:11],38.524735000040096
MR_559082_1,[C:1]([N:3](/[C:4](=[C:7](\[C:2]([H:18])([H:19])[H:20])[H:14])[O:8][H:10])/[C:5]([N:6]([H:11])[H:12])=[N:9]/[H:13])([H:15])([H:16])[H:17]>>[C:1](/[N:3]=[C:4](\[C@@:7]([C:2]([H:18])([H:19])[H:20])(/[C:5]([N:6]([H:11])[H:12])=[N:9]/[H:13])[H:14])[O:8][H:10])([H:15])([H:16])[H:17],69.1548925000373
MR_196411_0,[C:1]1([C:5]([H:17])([H:18])[H:19])([H:10])[C:3]([H:12])([H:13])[C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:20])([H:24])[H:25])[C:8]1([C:4]([H:14])([H:15])[H:16])[O:9][H:11]>>[C:1]([C:3]([C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:20])([H:24])[H:25])[H:11])([H:12])[H:13])([C:5]([H:17])([H:18])[H:19])([C:8]([C:4]([H:14])([H:15])[H:16])=[O:9])[H:10],69.96625000002197
MR_308789_1,[C:1](/[N:7]=[C:4](\[N:2]([N:3]([H:8])[H:9])[N:6]=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7](/[C:4](=[N:2]/[N:3]([H:8])[H:9])[H:10])[N:6]=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13],68.54684500000303
MR_528484_0,[C:1](/[C:4]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:18])=[N:8]/[H:12])[N:6]([H:9])[H:10])=[N:7]\[H:11])([H:13])([H:14])[H:17]>>[C:1](/[C:4](=[N:3]/[N:6]([H:9])[H:10])[N:7](/[C:5]([C:2]([H:15])([H:16])[H:18])=[N:8]/[H:12])[H:11])([H:13])([H:14])[H:17],40.64380249996901
MR_441903_1,[N:1](/[C:2]([O:5][H:8])=[N:6]/[N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[H:9]>>[N:1](=[C:2](\[O:5][H:8])[N:6]([N:3]([H:10])[H:11])[C:4](=[O:7])[H:12])\[H:9],46.44692250001327
MR_672032_1,[C:1](=[N:3]/[H:10])(\[C:5](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[H:13])([N:7]([H:9])[H:14])[H:15])[H:8]>>[C:1]1([N:3]([H:9])[H:10])([H:8])[C:5](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[H:13])([H:15])[N:7]1[H:14],51.2987525000338
MR_391872_0,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])=[C:4]([C:6]([N:5]([H:11])[H:12])([O:7][H:9])[H:13])[O:8][H:10]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:4](=[C:6](/[N:5]([H:11])[H:12])[H:13])[O:8][H:10])[O:7][H:9],51.87542500000461
MR_551046_1,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([C:4]([N:5]([H:8])[H:9])=[C:6]([H:15])[H:16])([H:10])[H:11]>>[C:1](=[C:4]([N:5]([H:8])[H:9])[C:6]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([H:15])[H:16])([H:10])[H:11],53.550222499985125
MR_627447_1,[C:1]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])(/[C:7]([C:4]([H:16])([H:17])[H:18])=[N:9]/[C:2]([O:8][C:3]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10]>>[C:1]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])([C:7]([C:4]([H:16])([H:17])[H:18])([O:8][C:3]([H:13])([H:14])[H:15])[N:9]=[C:2]([H:11])[H:12])[H:10],58.09708750002656
MR_481968_2,[C@:1](/[C:2](=[C:4](/[O:7][H:10])[H:14])[O:6][H:9])([N:3]([H:12])[H:13])([O:5][H:8])[H:11]>>[C@:1]1([O:5][H:8])([H:11])[C:2]([N:3]([H:12])[H:13])([O:6][H:9])[C@@:4]1([O:7][H:10])[H:14],57.890012500014336
MR_496960_1,[C@:1]([C:3]([H:17])([H:18])[H:19])([N:5]([C:2]([H:14])([H:15])[H:16])/[C:6](=[C:7](/[C:4]([H:20])([H:21])[H:22])[H:13])[O:8][H:10])([O:9][H:11])[H:12]>>[C@:1]([C:3]([H:17])([H:18])[H:19])([C@:7]([C:4]([H:20])([H:21])[H:22])(/[C:6](=[N:5]/[C:2]([H:14])([H:15])[H:16])[O:8][H:10])[H:13])([O:9][H:11])[H:12],69.821924999994
MR_390500_0,[C@:1]1([C:3]([H:10])([H:11])[H:12])([O:7][H:8])[C@:2]([C:4]([H:13])([H:14])[H:15])([H:9])[O:6][O:5]1>>[C:1]1([C@:2]([C:4]([H:13])([H:14])[H:15])([O:7][H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[O:5][O:6]1,69.25341000000259
